US04293561
1-[2-(2-Naphthoyl)ethyl]imidazole hydrochloride (1.0 g.) suspended in 50 ml of ether is stirred with excess dilute aqueous potassium carbonate solution until the salt is completely dissolved. The organic layer is then separated, washed twice with water, dried over magnesium sulfate and evaporated to yield 1-[2-(2-naphthoyl)ethyl]imidazole.

reactant | 1-[2-(2-Naphthoyl)ethyl]imidazole hydrochloride | 1.0 g | Cl.C1=C(C=CC2=CC=CC=C12)C(=O)CCN1C=NC=C1
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ether | 50 ml | CCOCC | C4H10O
product | 1-[2-(2-naphthoyl)ethyl]imidazole | C1=C(C=CC2=CC=CC=C12)C(=O)CCN1C=NC=C1 | C16H14N2O
